US05447957
c) Methyl 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate
Methyl-2-(nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate (2.5 g, 0.006 mol) was mixed in ethyl acetate (50 mL) and a palladium on carbon catalyst (600 mg) was added under argon. This mixture was hydrogenated at 50 psi for 3 h. The mixture was filtered through Celite® and washed with methanol and ethyl acetate. The solvents were evaporated to yield the title compound. 1H NMR (250 MHz, CDCl3) δ7.84 (d, 1H), 7.44 (dd, 1H), 7.03 (d, 1H), 684-6.97 (m, 2H), 6.72 (d, 1H), 4.22 (s, 2H), 3.81 (s, 3H), 1.55-1.72 (m, 2H), 1.29 (s, 6H), 0.60-0.77 (t, 3H),

reactant | Methyl-2-(nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate | 0.006 mol, 2.5 g | COC(C1=C(C=CC(=C1)C(CC)(C)C)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C20H20F3NO5
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
product | Methyl 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate | NC1=C(OC2=C(C(=O)OC)C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F | C20H22F3NO3
